US06977262B2
4-(2-Chlorophenyl)-5-cyano-6-(t-butyldimethylsilyloxy)-methyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine was prepared from ethyl t-butyldimethylsilyloxyacetate, 2-chlorobenzaldehyde and 3-aminopyrazole in the same manner as in Example 94. To a solution of 4-(2-chlorophenyl)-5-cyano-6-(t-butyldimethylsilyloxy)methyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (10 g) in tetrahydrofuran (100 ml) was added a THF solution (24.9 ml) of 1.0 M tetrabutylammonium fluoride and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added ethyl acetate (200 ml), and the resulting mixture was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was crystallized from ethyl acetate to give 4-(2-chlorophenyl)-5-cyano-6-hydroxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (5.46 g) as a white solid. To a solution of 4-(2-chlorophenyl)-5-cyano-6-hydroxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (1.0 g) and carbon tetrabromide (1.27 g) in methylene chloride (35 ml) was added triphenylphosphine (1.0 g) under ice-cooling and the mixture was stirred under ice-cooling for 4 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (0.45 g) as a pale-yellow solid. To a suspension of sodium hydride (25 mg) in DMF (3 ml) was added 1-methylpiperazine (69 μl) and the mixture was stirred at room temperature for 30 minutes. To this reaction mixture was added a solution of 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (200 mg) in DMF (3 ml) under ice-cooling and the mixture was stirred under ice-cooling for 1 hour. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:ethyl acetate-methanol (4:1)). The obtained oil was treated with hydrogen chloride-methanol to give the title compound (87 mg) as white crystals.

reactant | 4-(2-chlorophenyl)-5-cyano-6-hydroxymethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 1.0 g | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CO)=NNC2 | C14H11ClN4O
reactant | carbon tetrabromide | 1.27 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorophenyl)-5-cyano-6-bromomethyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 0.45 g | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)CBr)=NNC2 | C14H10BrClN4
